US07153854B2
To a solution of ethyl[4-(4-fluorophenyl)-2-methylpyrrolo[1,2-b]pyridazin-3-yl]acetate (100 mg) in tetrahydrofuran (2 ml) was added N-chlorosuccinimide (43 mg) and the mixture was stirred at 20° C. for 2 hours. The mixture was partitioned between ethyl acetate and water. The organic layer was separated, washed with aqueous ethyl acetate, water and brine, dried over magnesium sulfate, and evaporated. The residue was purified by silica gel column chromatograpy eluting with a mixture of toluene and ethyl acetate (10:1) to give ethyl[7-chloro-4-(4-fluorophenyl)-2-methylpyrrolo[1,2-b]pyridazin-3-yl]acetate (34 mg) as an yellow oil.

reactant | ethyl[4-(4-fluorophenyl)-2-methylpyrrolo[1,2-b]pyridazin-3-yl]acetate | 100 mg | C(C)OC(CC1=C(C=2N(N=C1C)C=CC2)C2=CC=C(C=C2)F)=O | C18H17FN2O2
reactant | N-chlorosuccinimide | 43 mg | ClN1C(CCC1=O)=O | C4H4ClNO2
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
product | ethyl[7-chloro-4-(4-fluorophenyl)-2-methylpyrrolo[1,2-b]pyridazin-3-yl]acetate | 34 mg | C(C)OC(CC1=C(C=2N(N=C1C)C(=CC2)Cl)C2=CC=C(C=C2)F)=O | C18H16ClFN2O2
